Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-8.00260420705
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],2.89679817763
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:6],3.51471346977
[H:3].[O:1]=[C:2][O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.27245958437
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2][H:3],3.77686880451
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.37045836465
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-8.53317116575
[H:1][O:2][C:3]1[C:4][O:5][C:6]1([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],0.2327492009099999
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][H:3],6.9972021657
[C:5]([H:6])([H:7])=[C:8].[H:1][C:2]([H:3])=[C:4]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-0.655760732609
[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]=[O:7]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])[H:10],-2.56509855673
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.03929154598
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2],1.85143264621
[C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.3325641821300005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.93593574302
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.6490071445200003
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.85540569789
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.64290915045
[C:3]=[O:8].[O:1]([C:2]#[C:4][C:5]([H:6])[H:7])[H:9]>>[O:1]=[C:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][H:9],-0.714346152819
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],0.320285838331
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.358168649101
[H:1][C:2]#[C:3][C:4]1=[C:5]([H:6])[C@:7]1([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-0.45146506775
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:5]([H:6])([O:7][H:8])=[C:9]([H:10])[H:11].[O:1][C:2]#[C:3][H:4],1.28094354658
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.78463529087
[H:8].[O:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10],-1.69185096642
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],6.096409962640001
[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.46088397908
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.12838713347
[H:1][C:2]#[C:3][C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([O:5][H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],2.4124628976
